US05783730
In this Example, an acid catalyst (ZSM-5-40 zeolite) was used for both the reaction of phosphorous acid (24.6 gm) with 36 gm of acetophenone (at 75° C.) and the subsequent reaction (at 80° C.) to crack the acyl derivative to form SPA. The amount of catalyst used in the first reaction was 12 gm. It was determined that the product contained 77 wt % styrene phosphonic acid (SPA), 17 wt % unreacted phosphorous acid, and 6 wt % Diels-Alder dimer phosphorus compound. The yield of SPA in this reaction was therefore 65% of theory.

reactant | phosphorous acid | 24.6 gm | P(O)(O)O | H3O3P
reactant | acetophenone | 36 gm | C(C)(=O)C1=CC=CC=C1 | C8H8O
product | SPA | C(=CC1=CC=CC=C1)P(O)(=O)O | C8H9O3P
